US03976783
A mixture of N-2-(3,4-dibenzyloxyphenyl)ethyl benzylamine (13.6 g.), 2-(4-sulfamoylphenoxy)ethyl chloride (4.8 g.) and dry xylene (50 ml.) was boiled under reflux for 12 hours. The solution was cooled and the precipitated solid removed by filtration, the filtration then being evaporated in vacuo to dryness and taken up into diethyl ether. Insoluble material was removed from the ethereal solution by filtration, and the filtrate treated with ethereal hydrogen chloride, which resulted in the precipitation of a yellow solid. The latter was collected by filtration and recrystallized from a methanol/isopropanol mixture giving N-[2-(3,4-dibenzyloxyphenyl)ethyl]-N-[2-(4-sulfamoylphenoxy) ethyl] benzylamine hydrochloride (5.8 g.), m.p. 178°-181°C.

reactant | N-2-(3,4-dibenzyloxyphenyl)ethyl benzylamine | 13.6 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCNCC1=CC=CC=C1 | C29H29NO2
reactant | 2-(4-sulfamoylphenoxy)ethyl chloride | 4.8 g | S(N)(=O)(=O)C1=CC=C(OCCCl)C=C1 | C8H10ClNO3S
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-[2-(3,4-dibenzyloxyphenyl)ethyl]-N-[2-(4-sulfamoylphenoxy) ethyl] benzylamine hydrochloride | 5.8 g | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCN(CCOC1=CC=C(C=C1)S(N)(=O)=O)CC1=CC=CC=C1 | InChI=1S/C37H38N2O5S.ClH/c38-45(40,41)35-19-17-34(18-20-35)42-25-24-39(27-31-10-4-1-5-11-31)23-22-30-16-21-36(43-28-32-12-6-2-7-13-32)37(26-30)44-29-33-14-8-3-9-15-33;/h1-21,26H,22-25,27-29H2,(H2,38,40,41);1H
